US08895596B2
Step B Ethyl 4-{[1-(biphenyl-4-ylmethyl)-5-(1-cyclopropyl-1H-indol-5-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate.
A 10 mL flask was charged with ethyl 4-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-(1H-indol-5-yl)-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate (0.080 g, 0.132 mmol), DMAP (0.048 g, 0.396 mmol), cyclopropylboronic acid (0.023 g, 0.264 mmol), and Cu(OAc)2 (4.8 mg, 0.026 mmol) under a nitrogen atmosphere. Toluene (1.3 mL) was added and the resulting suspension was treated with a 0.6 M solution of NaHMDS in toluene (0.220 mL, 0.132 mmol) dropwise via syringe. Dry air was purged into the reaction vessel, and the reaction was heated at 95° C. overnight. The dark reaction mixture was then cooled to ambient temperature and treated with 20 mL of 1 N HCl. The aqueous layer was separated and extracted with EtOAc (2×25 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. Purification of the resulting crude residue by preparative TLC (25% EtOAc/hexanes) furnished the title compound as a pale yellow residue. LCMS: calculated for C40H37F2N3O3 645.74, observed rule 646.2 (M+H)+ (Rt 3.03/4 min).

reactant | ethyl 4-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-(1H-indol-5-yl)-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | 0.132 mmol, 0.080 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)C=2C=C1C=CNC1=CC2)F)OC2CCC(CC2)C(=O)OCC)C2=CC=CC=C2 | C37H33F2N3O3
reactant | cyclopropylboronic acid | 0.264 mmol, 0.023 g | C1(CC1)B(O)O | C3H7BO2
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | HCl | 1 N, 20 mL | Cl | ClH
catalyst | DMAP | 0.396 mmol, 0.048 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | Cu(OAc)2 | 0.026 mmol, 4.8 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | Toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.132 mmol, 0.220 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-{[1-(biphenyl-4-ylmethyl)-5-(1-cyclopropyl-1H-indol-5-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)C=2C=C1C=CN(C1=CC2)C2CC2)F)OC2CCC(CC2)C(=O)OCC)C2=CC=CC=C2 | C40H37F2N3O3
